US07351826B2
Step 7. Preparation of 6-Fluoro-pyridine-2-carboxylic acid isobutyl-(8-propyl[1,2,4]triazolo-[1,5-c]pyrimidin-7-ylmethyl)-amide
To a stirred solution of isobutyl-(8-propyl-[1,2,4]triazolo[1,5-c]pyrimidin-7-ylmethyl)-amine (2.8 mmol) and 6-fluoro-pyridine-2-carboxylic acid (0.47g, 3.34 mmol) in DCM (10 ml) is added EDCI (0.61 g) and DMAP (0.153 g). The mixture is stirred at room temperature overnight. DCM (10 ml) is added to dilute the mixture. The mixture is washed with water (5 mL), dried (Na2SO4) and solvent evaporated. Preparative TLC purification of the residue (2:1 of hexane: ethyl acetate) provides the title product. H1 NMR δ (CDCl3) (mixture of rotamers) 9.25 (s, 0.51), 9.18 (s, 0.5H), 8.39 (s, 0.5H), 8.36 (s, 0.5H), 7.78-7.93 (m, 1H), 7.68 (d, 0.5H), 7.57 (d, 0.5H), 6.99 (d, 0.5H), 6.92 (d, 0.5H), 5.03 (s, 1H), 4.89 (s, 1H), 3.52 (d, 1H), 3.35 (d, 1H), 3.12 (t, 1H), 2.83 (t, 1H), 1.95-2.20 (m, 1H), 1.59-1.85 (m, 2H), 0.88-1.10 (m, 6H), 0.82 (t, 3H).

reactant | isobutyl-(8-propyl-[1,2,4]triazolo[1,5-c]pyrimidin-7-ylmethyl)-amine | 2.8 mmol | C(C(C)C)NCC1=C(C=2N(C=N1)N=CN2)CCC | C13H21N5
reactant | 6-fluoro-pyridine-2-carboxylic acid | 3.34 mmol, 0.47g | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | EDCI | 0.61 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.153 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Fluoro-pyridine-2-carboxylic acid isobutyl-(8-propyl[1,2,4]triazolo-[1,5-c]pyrimidin-7-ylmethyl)-amide | C(C(C)C)N(C(=O)C1=NC(=CC=C1)F)CC1=C(C=2N(C=N1)N=CN2)CCC | C19H23FN6O
